US06218566B1
Synthesis of Crude L-DOPA Ethyl Ester
Absolute ethanol (395 g, 500 ml, 8.58 moles, 17 eq.) and L-DOPA (100 g, 0.507 moles, 1 eq.) are introduced into 1 L reactor. The batch is cooled to 15° C. and HCl(g) (37.01 g, 1.014 mole, 2 eq.) is bubbled into the reaction mixture at 15-30° C. The reaction is heated to reflux (79° C.) and kept at reflux for 3 hours. The batch is then cooled to 40° C. and 350-400 ml of solvent is distilled out under vacuum during 1.5-2 hours (50 mbar, jacket temperature 60° C.). Deionized water (220 ml) is introduced, the pH of the solution is adjusted to 2-3 with 5N NaOH solution (65 ml) and 170 ml of the reaction mixture is distilled out during 1.5-2 hours (50 mbar, jacket temperature 50° C.). Toluene (20 ml) is added to the resulting solution, the pH of the solution is adjusted to pH 4-5 with 5N NaOH solution and sodium metabisulfite (2 g, 2% w/w) is added. The operations from this stage on are done at nitrogen atmosphere. The temperature of the reaction is adjusted to 25-30° C., the pH is adjusted to 6.5-6.7 with 5N NaOH and the solution is seeded with L-DOPA ethyl ester (1 g). The precipitation is continued by controlled addition of 5N NaOH solution (70 ml/hr.) until pH 7.6-7.8, the reaction mixture cooled to 5° C. and kept at this temperature for one hour. The precipitate is collected by filtration and washed with (2×40 ml) cold water. The crude wet precipitate is dried by azeotropic distillation of the water with toluene (500 ml) under vacuum (50 mbar, jacket temperature 25-45° C.) until no more water is distilled out. The mixture is cooled to ambient temperature, L-DOPA ethyl ester (crude) is collected by filtration, washed with toluene and dried in a vacuum oven at 30-35° C. until constant weight. The yield of crude material is 85%.

reactant | ethanol | 8.58 moles, 500 ml, 395 g, 17 eq. | C(C)O | C2H6O
reactant | L-DOPA | 0.507 moles, 100 g, 1 eq. | O=C(O)[C@@H](N)CC1=CC=C(O)C(O)=C1 | C9H11NO4
reactant | HCl | 1.014 mole, 37.01 g, 2 eq. | Cl | ClH
product | L-DOPA Ethyl Ester | CCOC(=O)[C@H](CC1=CC(=C(C=C1)O)O)N | C11H15NO4
